US07538114B2
Synthesis of (R) and (S)-methyl 2-(4-(phenyl(3-(trifluoromethyl)phenyl)-methyl)piperazin-1-yl)-acetate
To a solution of 1-(phenyl(3-(trifluoromethyl)phenyl)methyl)piperazine (2.0 g, 6 mmol) in acetonitrile (20 mL) was added methyl bromoacetate (0.59 mL, 6 mmol) dropwise at rt. The reaction was stirred for 30 min. and triethylamine (3.6 mL, 26 mmol) was added. After stirring for 18 h at rt, the reaction mixture was diluted with water and extracted with CH2Cl2. The organic layers were combined, washed with saturated NaCl solution, then dried over Na2SO4, and concentrated. The crude product was purified by ISCO using 0-40% ethyl acetate or 0-2% ethyl acetate in CH2Cl2 to give a mixture of enantiomers (2.0 g, 80%). The enantiomers were separated by chiral chromatography as described below and two peaks were collected with 100% ee.

reactant | 1-(phenyl(3-(trifluoromethyl)phenyl)methyl)piperazine | 6 mmol, 2.0 g | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC(=CC=C1)C(F)(F)F | C18H19F3N2
reactant | methyl bromoacetate | 6 mmol, 0.59 mL | BrCC(=O)OC | C3H5BrO2
reactant | triethylamine | 26 mmol, 3.6 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | (S)-methyl 2-(4-(phenyl(3-(trifluoromethyl)phenyl)-methyl)piperazin-1-yl)-acetate | C1(=CC=CC=C1)[C@H](N1CCN(CC1)CC(=O)OC)C1=CC(=CC=C1)C(F)(F)F | C21H23F3N2O2
